US07514578B2
Preparation of methyl 2-benzoylamino-3-(pyridin-2-ylamino)acrylate
10g (39.5 mmol) of methyl 2-benzoylamino-3-dimethylaminoacrylate and 11.3 g (118 mmol) of 2-aminopyridine were dissolved in 200 ml of isopropanol at 40° C. The solution was admixed with 3.96 ml (48 mmol) of concentrated hydrochloric acid within 5 minutes (min) and stirred for a further 30 min. The suspension was cooled to 10° C. and the crystallized product was filtered off. Yield: 7.3 g (60% of theory) 1H NMR: 3.62 (s, 3H); 6.92-6.97 (m, 1H); 7.02 (d, 1H); 7.45-7.70 (m, 4H); 8.02 (d, 2H); 8.22-8.24 (m, 1H); 8.60 (d, 1H); 9.22 (s, 1 H); 9.45 (d, 1 H)

reactant | methyl 2-benzoylamino-3-dimethylaminoacrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CN(C)C | C13H16N2O3
reactant | 2-aminopyridine | 118 mmol, 11.3 g | NC1=NC=CC=C1 | C5H6N2
reactant | hydrochloric acid | 48 mmol, 3.96 ml | Cl | ClH
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | methyl 2-benzoylamino-3-(pyridin-2-ylamino)acrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CNC1=NC=CC=C1 | C16H15N3O3
